US05438074
(R) -6-{(1R, 2S)-1-Hydroxy-2-ethoxy-3-[(S)-4-benzyl-2-oxo-3-oxazolidinyl ]-3 -oxopropyl}-2-(4-benzyloxybenzyl)-2H-benzopyran (18.8 g, 31 mmol) was dissolved in trifluoroacetic acid (200 ml) and triethylsilane (49 ml, 0.31 mmol) was added. After 45 minutes the volatile components were evaporated and the oily residue was triturated with isopropyl alcohol. The product was purified by flash-chromatography (hexanes/ethyl acetate, 2:) and obtained as a thick oil (8.9 g).

reactant | (R) -6-{(1R, 2S)-1-Hydroxy-2-ethoxy-3-[(S)-4-benzyl-2-oxo-3-oxazolidinyl ]-3 -oxopropyl}-2-(4-benzyloxybenzyl)-2H-benzopyran | 31 mmol, 18.8 g | O[C@@H]([C@@H](C(=O)N1C(OC[C@@H]1CC1=CC=CC=C1)=O)OCC)C=1C=CC2=C(C=C[C@H](O2)CC2=CC=C(C=C2)OCC2=CC=CC=C2)C1 | C38H37NO7
reactant | triethylsilane | 0.31 mmol, 49 ml | C(C)[SiH](CC)CC | C6H16Si
reactant | trifluoroacetic acid | 200 ml | FC(C(=O)O)(F)F | C2HF3O2
product | (S)-3-{4-[2-(4-Benzyloxyphenyl)]ethoxyphenyl}-2-ethoxypropanoic acid | 8.9 g | C(C1=CC=CC=C1)OC1=CC=C(C=C1)CCOC1=CC=C(C=C1)C[C@@H](C(=O)O)OCC | C26H28O5
